US05241076
d) 3-Methyl-2,7-diazabicyclo[3.3.0]octane
17 g (85.7 mmol) of ethyl 3-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate are heated under reflux overnight with 100 ml of concentrated hydrochloric acid. The mixture is concentrated, the residue is taken up in 50 ml of water, rendered alkaline with potassium carbonate and extracted ten times using 50 ml of chloroform each time. The extracts are dried over potassium carbonate and concentrated, and the residue is distilled.

reactant | ethyl 3-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 85.7 mmol, 17 g | CC1NC2CN(CC2C1)C(=O)OCC | C10H18N2O2
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 3-Methyl-2,7-diazabicyclo[3.3.0]octane | CC1NC2CNCC2C1 | C7H14N2
